US05131911
a/ Preparation of 6-benzyloxy-7-methoxyindole
This compound is obtained according to the operating method described in Example 1c, in which the 2-benzyloxy-3-ethoxy-6,β-dinitrostyrene is replaced with 4-benzyloxy-3-methoxy-2,β-dinitrostyrene. White crystals (yield=75%, m.p.=66°-67° C.) are obtained.

reactant | 2-benzyloxy-3-ethoxy-6,β-dinitrostyrene | C(C1=CC=CC=C1)OC1=C(C=C[N+](=O)[O-])C(=CC=C1OCC)[N+](=O)[O-] | C17H16N2O6
reactant | 4-benzyloxy-3-methoxy-2,β-dinitrostyrene | C(C1=CC=CC=C1)OC1=C(C(=C(C=C[N+](=O)[O-])C=C1)[N+](=O)[O-])OC | C16H14N2O6
product | 6-benzyloxy-7-methoxyindole | yield=75% | C(C1=CC=CC=C1)OC1=CC=C2C=CNC2=C1OC | C16H15NO2
